US07399775B2
Benzyl 2,5-difluorophenylacrylate
Under a nitrogen atmosphere, dicyclohexyl carbodiimide (206 mg, 1.0 mmol) was added to a methylene chloride solution (10 ml) of 2,5-difluorophenylacrylic acid (184 mg, 1 mmol), benzyl alcohol (104 ml, 1 mmol), and N,N-dimethylaminopyridine (36 mg, 0.3 mmol) at room temperature and the resulting mixture was stirred for 17 hours. After concentration of the reaction mixture under reduced pressure, 10 ml of hexane-diethyl ether (4:1) was added to the residue. The precipitate thus formed was filtered. The filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=5:1), whereby the title compound (242 mg, 88%) was obtained.

reactant | dicyclohexyl carbodiimide | 1.0 mmol, 206 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
reactant | 2,5-difluorophenylacrylic acid | 1 mmol, 184 mg | FC1=C(C=C(C=C1)F)C(C(=O)O)=C | C9H6F2O2
reactant | benzyl alcohol | 1 mmol, 104 ml | C(C1=CC=CC=C1)O | C7H8O
solvent | hexane diethyl ether | 10 ml | CCCCCC.C(C)OCC
product | Benzyl 2,5-difluorophenylacrylate | FC1=C(C=C(C=C1)F)C(C(=O)OCC1=CC=CC=C1)=C | C16H12F2O2
